US04057573
Analogously to the description in Example 2, 13 g of 6-benzoyl-indane-1-carboxylic acid methyl ester and 75 ml of 2 N sodium hydroxide solution in 500 ml of methanol give 6-benzoyl-indane-1-carboxylic acid of boiling point 200° C/0.04 mm Hg as a yellowish, viscous oil.

reactant | sodium hydroxide | 2 N, 75 ml | [OH-].[Na+]
reactant | 6-benzoyl-indane-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC=C2CCC(C2=C1)C(=O)O | C17H14O3
reactant | methanol | 500 ml | CO | CH4O
product | 6-benzoyl-indane-1-carboxylic acid methyl ester | 13 g | COC(=O)C1CCC2=CC=C(C=C12)C(C1=CC=CC=C1)=O | C18H16O3
